US07199239B2
Intermediate 28: Methyl [2-methyl-4-({[2-(methylthio)ethyl][4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)phenoxy]acetate
To a solution of N-[2-(methylthio)ethyl]-N-[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amine (0.27 g, 0.864 mmol) in anhydrous MeCN (22 mL) under nitrogen at room temperature was added methyl [4-(bromomethyl)-2-methylphenoxy]acetate (0.248 g, 0.864 mmol) and N,N-diisopropyethylamine (0.15 mL, 0.864 mmol). The resultant mixture was heated to reflux and stirred for 3 h. The reaction mixture was allowed to cool to room temperature and the solvent was removed in vacuo. The residue was partitioned between CHCl3 (2×30 mL) and water (30 mL). The organic solution was passed through a hydrophobic frit and the solvent was removed in vacuo. Purification by SPE (20 g Silica cartridge), eluted with 1:99–1:33 EtOAc:cyclohexane afforded the title compound as a yellow oil (249 mg).

reactant | N-[2-(methylthio)ethyl]-N-[4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amine | 0.864 mmol, 0.27 g | CSCCNC=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F | C16H16F3NS
reactant | methyl [4-(bromomethyl)-2-methylphenoxy]acetate | 0.864 mmol, 0.248 g | BrCC1=CC(=C(OCC(=O)OC)C=C1)C | C11H13BrO3
reactant | N,N-diisopropyethylamine | 0.864 mmol, 0.15 mL | C(C)(C)N(C(C)C)CC | C8H19N
solvent | MeCN | 22 mL | CC#N | C2H3N
product | Methyl [2-methyl-4-({[2-(methylthio)ethyl][4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)phenoxy]acetate | 249 mg | CC1=C(OCC(=O)OC)C=CC(=C1)CN(C=1C=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F)CCSC | C27H28F3NO3S
